US09290517B2
[(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-pyrrolidin-1-ylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane
1,4-bis(diphenylphosphino)butane (5.9 mg, 0.014 mmol), palladium(II) acetate (4.0 mg, 0.018 mmol), and ethanol (0.17 ml) were combined in a 4 ml vial. The catalyst mixture was degassed (3×) and placed under nitrogen. The catalyst mixture was an amber suspension that was stirred at room temperature. Sodium borohydride (19.0 mg, 0.502 mmol) was added to a stirred solution of [(3R,3aR,6R,6aS)-3-[1-allyl-6-chloro-5-(4-pyrrolidin-1-ylphenyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane (50.3 mg, 0.084 mmol) in ethanol (0.67 ml). The reaction mixture was a yellow suspension that was degassed (3×) and placed under nitrogen. After being stirred at room temperature for 40 minutes, the catalyst mixture was transferred to the reaction mixture via syringe. The reaction mixture was degassed (2×) and placed under nitrogen. After 3.5 hours, the reaction mixture was filtered and evaporated under reduced pressure. The resulting residue was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting (20 ml/min) with a 14 minute 20%-100% acetonitrile/water+0.05% TFA gradient followed by a 5 minute 100% acetonitrile+0.05% TFA flush. The product fractions were combined, frozen, and lyophilized to give the title compound as a yellow solid. LC-MS: calculated for C28H37ClN4O4Si 556.23 observed m/e: 557.29 (M+H)+ (Rt 1.24/2 min).

reactant | 1,4-bis(diphenylphosphino)butane | 0.014 mmol, 5.9 mg | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | Sodium borohydride | 0.502 mmol, 19.0 mg | [BH4-].[Na+]
reactant | [(3R,3aR,6R,6aS)-3-[1-allyl-6-chloro-5-(4-pyrrolidin-1-ylphenyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane | 0.084 mmol, 50.3 mg | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)C2=CC=C(C=C2)N2CCCC2)O[C@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)O[Si](C)(C)C(C)(C)C | C31H41ClN4O4Si
solvent | ethanol | 0.67 ml | C(C)O | C2H6O
catalyst | palladium(II) acetate | 0.018 mmol, 4.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 0.17 ml | C(C)O | C2H6O
product | [(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-pyrrolidin-1-ylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy-tert-butyl-dimethyl-silane | ClC=1C=C2C(=NC1C1=CC=C(C=C1)N1CCCC1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@H](CO1)O[Si](C)(C)C(C)(C)C | C28H37ClN4O4Si
